US07414061B2
5-Methyl-4-[2-methyl-1-(4-trifluoromethyl-phenyl)-1H-imidazol-4-yl]-3-phenyl-isoxazole
As described for Example 57, 5-methyl-4-(2-methyl-1H-imidazol-4-yl)-3-phenyl-isoxazole (70 mg, 0.3 mmol) using 4-fluorobenzotrifluoride instead of 4-fluoroacetophenone was converted to the title compound (10 mg, 9%) which was obtained as a light yellow solid. MS: m/e=384.1 [M+H]+.

reactant | 5-methyl-4-(2-methyl-1H-imidazol-4-yl)-3-phenyl-isoxazole | 0.3 mmol, 70 mg | CC1=C(C(=NO1)C1=CC=CC=C1)C=1N=C(NC1)C | C14H13N3O
reactant | 4-fluorobenzotrifluoride | FC1=CC=C(C=C1)C(F)(F)F | C7H4F4
product | 5-Methyl-4-[2-methyl-1-(4-trifluoromethyl-phenyl)-1H-imidazol-4-yl]-3-phenyl-isoxazole | 10 mg, 9% | CC1=C(C(=NO1)C1=CC=CC=C1)C=1N=C(N(C1)C1=CC=C(C=C1)C(F)(F)F)C | C21H16F3N3O
